* source SCHEMA_INITIALA_OSC_TRIUNGHIULAR
R_R41         N177534 N177528  2.2k TC=0,0 
R_R25         0 N178134  10k TC=0,0 
Q_Q9         VDD N177442 N177534 QBC846B 
R_R53         N177442 N1783201  510 TC=0,0 
R_R4         N177038 VDD  15k TC=0,0 
R_R3         VEE N178540  15k TC=0,0 
R_R54         N178544 N178384  510 TC=0,0 
R_R57         N178134 N177800  10k TC=0,0 
D_D2         N177192 VDD BZX84-C2V7 
R_R51         N1782981 N178384  510 TC=0,0 
Q_Q15         N177246 N177760 N177820 QBC846B 
R_R38         N177528 N177192  2.2k TC=0,0 
Q_Q19         N177274 N177260 VDD QBC856B 
V_V2         VEE 0 -18
Q_Q7         N177442 N177246 VDD QBC856B 
Q_Q13         VEE N177568 N177800 QBC856B 
R_R55         N178550 N178544  510 TC=0,0 
Q_Q2         N176870 N178192 N178356 QBC846B 
Q_Q11         N177260 N177800 N177902 QBC846B 
X_POT2         VEE VEE N178540 POT PARAMS: SET=1 VALUE=50k
R_R45         N177534 N177522  2.2k TC=0,0 
X_POT1         N177038 N177038 VDD POT PARAMS: SET=1 VALUE=50k
Q_Q10         N177274 N177572 N177902 QBC846B 
R_R40         N178056 N177534  2.2k TC=0,0 
R_R8         VEE N177820  47k TC=0,0 
C_C1         0 N176870  100p  TC=0,0 
R_R52         N1783201 N1782981  510 TC=0,0 
R_R44         N177522 N177192  2.2k TC=0,0 
Q_Q16         N177176 0 N177820 QBC846B 
R_R5         N177122 N177038  1.5k TC=0,0 
V_V1         VDD 0 18
R_R32         0 N177626  47k TC=0,0 
Q_Q20         N177260 N177260 VDD QBC856B 
R_R28         N176870 N177760  150k TC=0,0 
X_POT3         N177626 N177572 N176870 POT PARAMS: SET=0.9 VALUE=500k
R_R19         VEE N177568  10K TC=0,0 
C_C4         0 N176870  470p  TC=0,0 
Q_Q12         N177568 N177274 VDD QBC856B 
R_R58         N177760 N177534  220k TC=0,0 
R_R16         VEE N177902  22k TC=0,0 
R_R34         N178540 N178356  1.5k TC=0,0 
Q_Q17         N177246 N177176 VDD QBC856B 
Q_Q8         VEE N177442 N177534 QBC856B 
Q_Q1         N176870 N177192 N177122 QBC856B 
R_R43         N178192 N178050  2.2k TC=0,0 
D_D1         VEE N178192 BZX84-C2V7 
R_R42         N178050 N177534  2.2k TC=0,0 
R_R56         VEE N178550  510 TC=0,0 
R_R39         N178192 N178056  2.2k TC=0,0 
Q_Q18         N177176 N177176 VDD QBC856B 
Q_Q14         VDD N177568 N177800 QBC846B 
