* source PROIECT_OSC_TRIUNGHIULAR
X_POT1         N112512 N112512 VDD POT PARAMS: SET=1 VALUE=50k
X_POT2         VEE VEE N105962 POT PARAMS: SET=1 VALUE=50k
Q_Q1         N105158 N105014 N142027 QBC856B 
Q_Q14         VDD N105168 N105528 QBC846B 
Q_Q8         VEE N105164 N105322 QBC856B 
R_R5         N142027 N112512  1.5k TC=0,0 
R_R4         N112512 VDD  15k TC=0,0 
Q_Q2         N105158 N105684 N142019 QBC846B 
D_D2         N105014 VDD BZX84-C2V7 
D_D1         VEE N105684 BZX84-C2V7 
Q_Q7         N105164 N108998 VDD QBC856B 
Q_Q9         VDD N105164 N105322 QBC846B 
R_R16         VEE N105464  22k TC=0,0 
Q_Q12         N105168 N105128 VDD QBC856B 
R_R8         VEE N108528  47k TC=0,0 
R_R19         VEE N105168  10K TC=0,0 
Q_Q11         N109664 N105528 N105464 QBC846B 
R_R3         VEE N105962  15k TC=0,0 
Q_Q10         N105128 N126262 N105464 QBC846B 
Q_Q13         VEE N105168 N105528 QBC856B 
Q_Q15         N108998 N126084 N108528 QBC846B 
Q_Q16         N108991 0 N108528 QBC846B 
Q_Q17         N108998 N108991 VDD QBC856B 
Q_Q18         N108991 N108991 VDD QBC856B 
Q_Q20         N109664 N109664 VDD QBC856B 
Q_Q19         N105128 N109664 VDD QBC856B 
R_R25         N151733 N105528  10k TC=0,0 
X_POT3         N126327 N126262 N105158 POT PARAMS: SET=0.9 VALUE=500k
R_R32         0 N126327  47k TC=0,0 
R_R34         N105962 N142019  1.5k TC=0,0 
R_R38         N136654 N105014  2.2k TC=0,0 
R_R39         N105684 N136658  2.2k TC=0,0 
R_R40         N136658 N105322  2.2k TC=0,0 
R_R41         N105322 N136654  2.2k TC=0,0 
R_R43         N105684 N136718  2.2k TC=0,0 
R_R42         N136718 N105322  2.2k TC=0,0 
R_R44         N136852 N105014  2.2k TC=0,0 
R_R45         N105322 N136852  2.2k TC=0,0 
R_R28         N105158 N126084  150k TC=0,0 
C_C2         N105164 N105322  10p  TC=0,0 
R_R54         N144715 N151868  510 TC=0,0 
R_R53         N105164 N1446051  510 TC=0,0 
R_R51         N1445831 N151868  510 TC=0,0 
R_R56         VEE N144719  510 TC=0,0 
R_R52         N1446051 N1445831  510 TC=0,0 
R_R55         N144719 N144715  510 TC=0,0 
V_V1         VDD 0 18
V_V2         VEE 0 -18
C_C3         N105168 N105528  10p  TC=0,0 
C_C4         0 N105158  470p  TC=0,0 
C_C1         0 N105158  100p  TC=0,0 
R_R57         0 N151733  10k TC=0,0 
R_R58         N126084 N105322  220k TC=0,0 
